* C:\Users\Simon\Documents\GitHub\DC-DC\Simulations\Buckconverter01\LTSpice\Buckconverter.asc
V1 N006 0 200
R1 N008 0 7.225
C1 N008 0 3.46µ
L1 N007 N008 22m
D1 0 N007 D
S1 N007 N006 N003 0 SW
XU2 N004 N002 N001 N005 N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V4 N002 0 PULSE(0 100 0 0.1m 0.1m 0 0.2m)
V5 N004 0 85
V6 N001 0 1
V2 0 N005 1
.model D D
.lib C:\Users\Simon\Documents\LTspiceXVII\lib\cmp\standard.dio
* V1
* V2
.tran 0.1 startup
.model SW SW()
.lib UniversalOpamps2.sub
.backanno
.end
